US09278915B2
Intermediate 78: Methyl [4-(4-hydroxyphenyl)-3-methyl-1,2-oxazol-5-yl]acetate
To a 50 mL two neck RB flask fitted with magnetic stirrer was charged with 5 mL of DMF. To the stirred solvent were added methyl (4-iodo-3-methyl-1,2-oxazol-5-yl)acetate (0.7 g, 2.5 mmol), (4-hydroxyphenyl)boronic acid (0.34 g, 2.5 mmol) and 1 mL of aqueous NaHCO3 solution (0.62 g, 7.47 mmol) under argon atmosphere. After purging the argon gas about 10 minutes was added bis-(triphenylphosphine) palladium(II)chloride (0.21 g, 0.3 mmol) and heated at 85° C. for 4 h. The RM was filtered through celite and washed with cold water and extracted with ethyl acetate (25 mL). The organic layer was washed with water (20 mL) and saturated brine solution (20 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The crude material was purified by silica gel column chromatography using ethyl acetate and petroleum ether as eluents. The product was obtained as brown solid (0.4 g, yield: 66.6%). 1H NMR (300 MHz, CDCl3): δ 7.07-7.10 (d, 2H), 6.84-6.86 (d, 2H), 5.82 (s, 1H), 3.69 (s, 2H), 3.66 (s, 3H), 2.21 (s, 3H).

reactant | methyl (4-iodo-3-methyl-1,2-oxazol-5-yl)acetate | 2.5 mmol, 0.7 g | IC=1C(=NOC1CC(=O)OC)C | C7H8INO3
reactant | (4-hydroxyphenyl)boronic acid | 2.5 mmol, 0.34 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | NaHCO3 | 7.47 mmol, 1 mL, 0.62 g | C(=O)(O)[O-].[Na+]
catalyst | bis-(triphenylphosphine) palladium(II)chloride | 0.3 mmol, 0.21 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl [4-(4-hydroxyphenyl)-3-methyl-1,2-oxazol-5-yl]acetate | 0.4 g, yield: 66.6% | OC1=CC=C(C=C1)C=1C(=NOC1CC(=O)OC)C | C13H13NO4
